US07465730B2
To a solution of 4-ethoxy-2-methylsulfanyl-1-nitro-benzene (1.0 g, 5.4 mmol) in absolute EtOH (25 mL) at rt was added 40 mg of Pd/C (Aldrich, 10 wt. % on active carbon), followed by slow addition of hydrazine hydrate (0.5 mL). The resulting reaction mixture was refluxed at 90° C. for 3 h. It then cooled to rt, filtered through Celite, and then concentrated in vacuo to afford 4-ethoxy-2-methylsulfanyl-phenyl amine as a pale yellow oil: MS (ESI) 184 (M+H)+.

reactant | 4-ethoxy-2-methylsulfanyl-1-nitro-benzene | 5.4 mmol, 1.0 g | C(C)OC1=CC(=C(C=C1)[N+](=O)[O-])SC | C9H11NO3S
reactant | hydrazine hydrate | 0.5 mL | O.NN
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 4-ethoxy-2-methylsulfanyl-phenyl amine | C(C)OC1=CC(=C(C=C1)N)SC | C9H13NOS
